US07202364B2
2,3,5,6-Tetrafluoroaniline (25.0 g, 0.15 mol) is dissolved in methanol (100 mL) and treated with elemental bromine (28.4 g, 0.17 mol) by dropwise addition at room temperature. Solid sodium bicarbonate (15 g, 0.18 mol) is added portionwise and the resulting mixture stirred for an additional 2 hours. The reaction mixture is partitioned between Et2O (500 mL) and water (1000 mL). The organic layer is dried (MgSO4) and evaporated by a rotary evaporator to give 2,3,5,6-tetrafluoro-4-bromoaniline (m.p. 59–60° C.).

reactant | 2,3,5,6-Tetrafluoroaniline | 0.15 mol, 25.0 g | FC1=C(N)C(=C(C=C1F)F)F | C6H3F4N
reactant | bromine | 0.17 mol, 28.4 g | BrBr | Br2
reactant | sodium bicarbonate | 0.18 mol, 15 g | C([O-])(O)=O.[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 2,3,5,6-tetrafluoro-4-bromoaniline | FC1=C(N)C(=C(C(=C1F)Br)F)F | C6H2BrF4N
